Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
unknown / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female with past medical history of
hypertension, dementia, CKD stage 3, rheumatoid arthritis on
hydroxychloroquine, essential thrombocytosis on hydrea, who
presented with weakness for several days.  Patient daughter
provides history, reports that 4 days prior to presentation, she
noted dark cloudy urine, + new urinary frequency.  Given UA
concerning for infection (Per ___ records, UA showed >100 WBCs
with rare bacteria and without squamous epithelial cells), she
was prescribed empiric macrobid by ___ PCP office, but before
she could take a dose, she developed worsening fatigue and gait
instability.  Daughter brought patient to ED for further
evaluation.  

In the ED, initial vitals were 97.4 77 122/37 16 96% RA.  Per ED
dashboard, exam notable for breathing comfortably, soft 
nontender
abdomen, AOX3.  Labs notable for WBC 20.3, Hgb 11.3, Plt 338, Cr
1.2, K 5.2, UA >182 WBCs, many bacteria, < 1 epi.  Patient was
given IV ceftriaxone and was admitted to medicine for further
management. 

On the floor, patient reported feeling well; she could not 
recall
if she had dysuria or increased urinary frequency; denied 
current
abdominal pain, nausea; felt hungry; no cough or chest pain; 
full
10 point review of systems positive where noted, otherwise
negative. 

 
Past Medical History:
Hypertension, essential 
Dementia 
CKD (chronic kidney disease) stage 3, GFR ___ ml/min 
Seronegative rheumatoid arthritis 
Malignant neoplasm of upper-outer quadrant of right female 
breast
Slow transit constipation 
 
Social History:
___
Family History:
Sister had breast cancer
 
Physical Exam:
Admission Exam:
===============
VS: 97.9 PO 149 / 69 86 16 96 RA
Gen - supine in bed, comfortable appearing 
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft, mild epigastric tenderness to deep palpation; no
rebound/guarding; negative murphys; normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx2 (name, hospital), moving all extremities
Psych - appropriate  

Discharge Exam:
================
97.9 ___
Sleeping comfortably in chair, answers questions
MMM, OP clear
RRR, ___ systolic murmur at RUSB
Abdomen soft, nontender, nondistended with normoactive BS
No edema, no rashes
Moving all extremities
 
Pertinent Results:
Admission Labs:
=================
___ 08:56AM BLOOD WBC-20.3* RBC-2.98* Hgb-11.1* Hct-34.3 
MCV-115* MCH-37.2* MCHC-32.4 RDW-17.7* RDWSD-75.1* Plt ___
___ 08:56AM BLOOD Neuts-87.5* Lymphs-3.2* Monos-6.3 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-17.70* AbsLymp-0.65* 
AbsMono-1.28* AbsEos-0.00* AbsBaso-0.07
___ 08:56AM BLOOD Glucose-113* UreaN-32* Creat-1.2* Na-135 
K-5.2 Cl-96 HCO3-26 AnGap-13
___ 06:18AM BLOOD ALT-17 AST-18 AlkPhos-118* TotBili-0.4
___ 08:56AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.3
___ 08:58AM BLOOD Lactate-1.1
___ 08:58AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 08:58AM URINE Blood-TR* Nitrite-POS* Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 08:58AM URINE RBC-5* WBC->182* Bacteri-MANY* Yeast-NONE 
Epi-<1

Urine Culture ___:
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Discharge Labs:
================
___ 06:10AM BLOOD WBC-16.3* RBC-2.50* Hgb-9.1* Hct-29.6* 
MCV-118* MCH-36.4* MCHC-30.7* RDW-17.1* RDWSD-75.6* Plt ___
___ 06:10AM BLOOD Glucose-84 UreaN-27* Creat-1.1 Na-140 
K-4.1 Cl-101 HCO3-25 AnGap-14
___ 06:10AM BLOOD Calcium-8.1* Phos-3.7 Mg-2.1
 
Brief Hospital Course:
Ms ___ is a ___ year old woman with past medical history of 
hypertension, dementia, CKD stage 3, rheumatoid arthritis 
onhydroxychloroquine and hydroxyurea, admitted with 
fevers,leukocytosis consistent with sepsis from urinary source. 

# Sepsis secondary to 
# E Coli UTI
# Leukocytosis
Patient admitted with leukocytosis with fevers at home and on 
admission found to have UTI with urine culture growing E Coli. 
She was treated with fluids and antibiotics (ceftriaxone) with 
improvement in symptoms. She was discharged on cefpodoxime to 
complete total of 7 days of antibiotics. Of note, Ms. ___ had 
a persistent leukocytosis on discharge however per review of 
atrius records has had a chronic leukocytosis over the last 
year. 

#Diarrhea: Patient developed loose stools in the hospital. Cdiff 
negative. She was started on loperamide as needed with 
improvement in her diarrhea. Likely related to antibiotics. 

# Dementia: Mental status at baseline at time of discharge. 

# Gait instability: Nonfocal neuro exam on admission with gait 
instability felt to be due to sepsis. She was seen by ___ and set 
up with ongoing home ___ at time of discharge. 

# Abnormal Lung Xray: Incidentally showed "Nodular opacities 
projecting over the right heart border in might be concerning 
for pulmonary lesion versus summation of shadows." ___ 
radiology recommended "Further assessment with chest CT is 
recommended on the non emergency basis." PCP and daughter 
notified on admission.

# CKD 3: Cr 1.2 on admission from baseline 1.1 which improved to 
baseline with fluids. 

# Rheumatoid arthritis: Continue hydroxychloroquine.

# Right Breast Cancer: ER positive, followed by Dr. ___ 
___ ___. Continue letrozole.

# Essential thrombocytosis: Continue hydroxyurea and aspirin. 

Please see discharge summary.

Transitional issues:
=====================
[ ]Patient noted to have chronic leukocytosis, consider work-up 
as outpatient
[ ]To continue antibiotics with cefpodoxime through ___

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. Celecoxib 100 mg oral DAILY:PRN 
3. Letrozole 2.5 mg PO DAILY 
4. Hydroxyurea 500 mg PO 6X/WEEK (___) 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
6. Vitamin D 1000 UNIT PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q24H 
First dose ___ AM 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth Daily Disp #*6 
Tablet Refills:*0 
2.  LOPERamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 tablet by mouth four times a day Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Celecoxib 100 mg oral DAILY:PRN pain  
5.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
6.  Hydroxyurea 500 mg PO 6X/WEEK (___)  
7.  Letrozole 2.5 mg PO DAILY  
8.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Sepsis ___
E. Coli UTI
Diarrhea

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with sepsis due to a urinary 
tract infection. You were treated with antibiotics and fluids 
and your symptoms improved. You will need to continue 
cefpodoxime daily through ___. 

While you were here, you developed diarrhea. You had a test to 
evaluated for an infection which was negative. Your diarrhea is 
likely related to the antibiotics. You can take loperamide 
(Immodium) as needed for this diarrhea. 

Please call your doctor if you developed worsening pain with 
urination, worsening diarrhea, light headedness, dizziness, 
confusion, lethargy or fever >100.4. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___